US08183264B2
6-Methoxymethyl-3-(2H-tetrazol-5-yl)-pyridin-2-ylamine
2-Amino-6-methoxymethyl-nicotinonitrile (0.20 g) described in Manufacturing Example 6-2, sodium azide (0.40 g), triethylamine hydrochloride (1.7 g), and NMP (25 mL) were stirred for 2 hours at 160° C. The reaction solution was directly purified by silica gel chromatography (ethyl acetate, then ethyl acetate:methanol:concentrated aqueous ammonia=6:2:1). The organic layer thus obtained was concentrated and purified by silica gel chromatography (ethyl acetate:methanol=4:1) to obtain the titled compound (170 mg).

reactant | 2-Amino-6-methoxymethyl-nicotinonitrile | 0.20 g | NC1=C(C#N)C=CC(=N1)COC | C8H9N3O
reactant | sodium azide | 0.40 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.7 g | Cl.C(C)N(CC)CC
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
product | 6-Methoxymethyl-3-(2H-tetrazol-5-yl)-pyridin-2-ylamine | 170 mg | COCC1=CC=C(C(=N1)N)C=1N=NNN1 | C8H10N6O
